* File: G5_XNOR3_N2.pex.netlist.pex
* Created: Mon Mar 28 15:31:24 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G5_XNOR3_N2_VDD 2 3 5 8 10 11 29 30 41 42 44 53 54 65 69 74 83 85 86
+ 87 90 92 96 99 102 104 108 110 114 118 120 122 124 125 131 140 145 Vss
c116 145 Vss 0.00470693f
c117 140 Vss 0.00487376f
c118 131 Vss 0.00472091f
c119 125 Vss 2.39889e-19
c120 124 Vss 4.91772e-19
c121 123 Vss 5.21614e-19
c122 120 Vss 4.52364e-19
c123 118 Vss 0.00162316f
c124 114 Vss 4.81041e-19
c125 110 Vss 0.00631991f
c126 108 Vss 9.42823e-19
c127 104 Vss 0.00578311f
c128 102 Vss 0.00174133f
c129 99 Vss 0.00271006f
c130 96 Vss 0.00486611f
c131 92 Vss 0.00657264f
c132 90 Vss 0.00151669f
c133 87 Vss 8.67714e-19
c134 86 Vss 0.0090076f
c135 85 Vss 0.0105886f
c136 83 Vss 0.00212071f
c137 74 Vss 0.00377995f
c138 69 Vss 0.0039448f
c139 65 Vss 0.00373195f
c140 54 Vss 0.035607f
c141 53 Vss 0.100823f
c142 44 Vss 8.7772e-20
c143 42 Vss 0.0356105f
c144 41 Vss 0.101295f
c145 30 Vss 0.0346327f
c146 29 Vss 0.0990915f
c147 11 Vss 0.269218f
c148 5 Vss 0.27009f
c149 3 Vss 0.232895f
r150 116 118 5.2515
r151 114 145 1.16709
r152 112 114 2.16729
r153 111 125 0.494161
r154 110 116 0.652036
r155 110 111 7.46046
r156 108 140 1.16709
r157 106 125 0.128424
r158 106 108 2.16729
r159 105 124 0.494161
r160 104 112 0.652036
r161 104 105 10.3363
r162 100 123 0.0828784
r163 100 102 2.00578
r164 99 124 0.128424
r165 98 123 0.551426
r166 98 99 4.58464
r167 96 131 1.16709
r168 94 123 0.551426
r169 94 96 7.25207
r170 93 122 0.326018
r171 92 124 0.494161
r172 92 93 10.1279
r173 88 120 0.0828784
r174 88 90 1.82344
r175 86 125 0.494161
r176 86 87 15.8795
r177 85 122 0.326018
r178 84 120 0.551426
r179 84 85 15.5878
r180 83 120 0.551426
r181 82 87 0.652036
r182 82 83 4.58464
r183 74 118 1.16709
r184 69 102 1.16709
r185 65 90 1.16709
r186 56 145 0.0476429
r187 54 56 1.45875
r188 53 57 0.652036
r189 53 56 1.45875
r190 49 54 0.652036
r191 44 140 0.0476429
r192 42 44 1.45875
r193 41 45 0.652036
r194 41 44 1.45875
r195 37 42 0.652036
r196 32 131 0.238214
r197 30 32 1.45875
r198 29 33 0.652036
r199 29 32 1.45875
r200 25 30 0.652036
r201 11 57 3.8511
r202 11 49 3.8511
r203 10 74 0.185659
r204 8 69 0.185659
r205 5 45 3.8511
r206 5 37 3.8511
r207 3 33 3.1509
r208 3 25 3.1509
r209 2 65 0.185659
.ends

.subckt PM_G5_XNOR3_N2_C 2 4 6 8 20 23 32 40 43 47 52 57 67 86 94 100 Vss
c51 100 Vss 3.07518e-19
c52 94 Vss 0.00534351f
c53 86 Vss 0.010496f
c54 67 Vss 0.00399096f
c55 57 Vss 0.00459151f
c56 52 Vss 0.00198824f
c57 47 Vss 0.00148308f
c58 43 Vss 0.00113252f
c59 32 Vss 0.00492048f
c60 23 Vss 9.8832e-20
c61 20 Vss 0.221837f
c62 17 Vss 0.126125f
c63 15 Vss 0.0247918f
c64 4 Vss 0.133869f
r65 95 100 0.494161
r66 94 96 0.652036
r67 94 95 10.3363
r68 90 100 0.128424
r69 86 100 0.494161
r70 57 60 0.05
r71 52 67 1.16709
r72 52 96 2.37568
r73 47 90 2.45904
r74 43 60 1.16709
r75 43 86 25.2989
r76 40 43 0.0364688
r77 37 67 0.1
r78 32 47 1.16709
r79 23 57 0.0476429
r80 21 23 0.326018
r81 21 23 0.1167
r82 20 24 0.652036
r83 20 23 6.7686
r84 17 57 0.357321
r85 15 23 0.326018
r86 15 17 0.40845
r87 8 37 0.185659
r88 6 32 0.185659
r89 4 24 3.8511
r90 2 17 3.44265
.ends

.subckt PM_G5_XNOR3_N2_VSS 1 4 6 7 9 12 29 32 41 42 53 54 56 66 70 79 84 89 94
+ 99 102 105 114 119 128 130 131 132 137 138 143 151 159 160 161 Vss
c126 161 Vss 3.75522e-19
c127 160 Vss 3.88979e-19
c128 159 Vss 4.4306e-19
c129 143 Vss 0.00346584f
c130 138 Vss 8.41415e-19
c131 137 Vss 0.00629302f
c132 132 Vss 8.38477e-19
c133 131 Vss 0.00556756f
c134 130 Vss 0.00421531f
c135 128 Vss 0.00274186f
c136 119 Vss 0.00392167f
c137 114 Vss 0.00408379f
c138 105 Vss 0.00489622f
c139 102 Vss 0.00348146f
c140 99 Vss 0.00311148f
c141 94 Vss 7.25701e-19
c142 89 Vss 9.96742e-19
c143 84 Vss 0.00258358f
c144 79 Vss 0.00309974f
c145 70 Vss 0.00527641f
c146 66 Vss 0.00738563f
c147 56 Vss 1.02723e-19
c148 54 Vss 0.0347733f
c149 53 Vss 0.0999357f
c150 42 Vss 0.035088f
c151 41 Vss 0.0994129f
c152 32 Vss 9.8832e-20
c153 30 Vss 0.0348822f
c154 29 Vss 0.10032f
c155 9 Vss 0.270154f
c156 7 Vss 0.269158f
c157 6 Vss 0.00143442f
c158 1 Vss 0.232685f
r159 149 161 0.494161
r160 149 151 6.54354
r161 145 161 0.128424
r162 144 160 0.494161
r163 143 155 0.652036
r164 143 144 7.46046
r165 139 160 0.128424
r166 137 161 0.494161
r167 137 138 15.8795
r168 133 159 0.0828784
r169 131 160 0.494161
r170 131 132 13.0037
r171 130 138 0.652036
r172 129 159 0.551426
r173 129 130 12.5036
r174 128 159 0.551426
r175 127 132 0.652036
r176 127 128 7.66886
r177 102 151 1.50043
r178 99 102 5.835
r179 94 119 1.16709
r180 94 155 2.16729
r181 89 114 1.16709
r182 89 145 2.16729
r183 84 139 5.2515
r184 79 105 1.16709
r185 79 133 4.33978
r186 70 99 1.16709
r187 66 84 1.16709
r188 56 119 0.0476429
r189 54 56 1.45875
r190 53 57 0.652036
r191 53 56 1.45875
r192 49 54 0.652036
r193 44 114 0.0476429
r194 42 44 1.45875
r195 41 45 0.652036
r196 41 44 1.45875
r197 37 42 0.652036
r198 32 105 0.238214
r199 30 32 1.45875
r200 29 33 0.652036
r201 29 32 1.45875
r202 25 30 0.652036
r203 12 70 0.185659
r204 9 57 3.8511
r205 9 49 3.8511
r206 7 45 3.8511
r207 7 37 3.8511
r208 6 66 0.185659
r209 4 66 0.185659
r210 1 33 3.1509
r211 1 25 3.1509
.ends

.subckt PM_G5_XNOR3_N2_CI 2 4 6 8 23 26 31 34 39 44 79 80 85 91 Vss
c48 91 Vss 2.53341e-19
c49 85 Vss 0.00608182f
c50 80 Vss 3.61784e-19
c51 79 Vss 0.00606729f
c52 44 Vss 0.00187346f
c53 39 Vss 0.00150573f
c54 34 Vss 0.00581447f
c55 31 Vss 0.00501461f
c56 26 Vss 0.00386883f
c57 23 Vss 0.00546807f
c58 4 Vss 0.00143442f
r59 86 91 0.441572
r60 85 87 0.655813
r61 85 86 9.04425
r62 81 91 0.174814
r63 79 91 0.441572
r64 79 80 19.1096
r65 75 80 0.655813
r66 44 87 2.41736
r67 39 81 2.41736
r68 34 75 13.4205
r69 31 44 1.16709
r70 26 39 1.16709
r71 23 34 1.16709
r72 8 31 0.185659
r73 6 26 0.185659
r74 4 23 0.185659
r75 2 23 0.185659
.ends

.subckt PM_G5_XNOR3_N2_A 2 4 5 7 20 44 45 49 55 58 60 61 66 69 70 73 78 Vss
c79 78 Vss 0.00548899f
c80 73 Vss 0.00489228f
c81 70 Vss 0.00566456f
c82 69 Vss 4.97253e-19
c83 61 Vss 5.64597e-19
c84 60 Vss 6.06847e-19
c85 58 Vss 0.00443885f
c86 55 Vss 0.00696223f
c87 49 Vss 0.135055f
c88 45 Vss 0.127825f
c89 44 Vss 9.8832e-20
c90 20 Vss 0.21515f
c91 17 Vss 0.129208f
c92 15 Vss 0.0247918f
c93 5 Vss 1.22081f
c94 4 Vss 0.139574f
r95 78 81 0.05
r96 69 81 1.16709
r97 69 70 0.531835
r98 64 73 1.16709
r99 64 66 0.125036
r100 61 64 0.833571
r101 60 70 10.4613
r102 57 60 0.652036
r103 57 58 8.66914
r104 56 61 0.0685365
r105 55 58 0.652036
r106 55 56 10.2113
r107 47 49 4.53833
r108 44 78 0.0238214
r109 44 45 2.26917
r110 41 44 2.26917
r111 34 49 0.00605528
r112 33 45 0.00605528
r113 28 47 0.00605528
r114 27 41 0.00605528
r115 23 73 0.0952857
r116 21 23 0.326018
r117 21 23 0.1167
r118 20 24 0.652036
r119 20 23 6.7686
r120 17 23 0.3335
r121 15 23 0.326018
r122 15 17 0.2334
r123 7 34 3.8511
r124 7 28 3.8511
r125 5 7 15.4044
r126 5 33 3.8511
r127 5 7 15.4044
r128 5 27 3.8511
r129 4 24 3.8511
r130 2 17 3.6177
.ends

.subckt PM_G5_XNOR3_N2_BI 2 4 6 8 16 23 29 32 37 42 51 56 64 65 71 77 82 83 Vss
c69 83 Vss 1.50773e-19
c70 82 Vss 0.00211439f
c71 77 Vss 0.00104035f
c72 71 Vss 3.29809e-19
c73 65 Vss 2.46443e-19
c74 64 Vss 0.00335376f
c75 56 Vss 0.00250661f
c76 51 Vss 0.00216609f
c77 42 Vss 0.00132272f
c78 37 Vss 9.45807e-19
c79 32 Vss 0.00229686f
c80 29 Vss 0.00450667f
c81 23 Vss 1.05854e-19
c82 16 Vss 0.111942f
c83 8 Vss 0.111942f
c84 4 Vss 0.00143442f
r85 81 83 0.65409
r86 81 82 3.42052
r87 77 82 0.652979
r88 64 71 0.0685365
r89 64 65 13.2121
r90 60 65 0.652036
r91 42 56 1.16709
r92 42 83 2.00578
r93 37 51 1.16709
r94 37 77 2.03284
r95 37 71 2.08393
r96 32 60 5.2515
r97 29 32 1.16709
r98 23 56 0.50025
r99 16 51 0.50025
r100 8 23 3.09255
r101 6 16 3.09255
r102 4 29 0.185659
r103 2 29 0.185659
.ends

.subckt PM_G5_XNOR3_N2_AI 2 4 5 7 31 37 43 50 55 64 72 Vss
c47 72 Vss 2.58509e-19
c48 64 Vss 0.005486f
c49 55 Vss 0.0041561f
c50 50 Vss 8.67602e-19
c51 43 Vss 0.00448756f
c52 37 Vss 0.127877f
c53 31 Vss 0.131783f
c54 5 Vss 1.2083f
c55 4 Vss 0.00143442f
r56 68 72 0.655813
r57 55 64 1.16709
r58 55 72 12.0347
r59 50 68 2.41736
r60 43 50 1.16709
r61 36 64 0.0238214
r62 36 37 2.334
r63 33 36 2.20433
r64 29 31 4.53833
r65 24 37 0.00605528
r66 23 31 0.00605528
r67 18 33 0.00605528
r68 17 29 0.00605528
r69 7 24 3.8511
r70 7 18 3.8511
r71 5 7 15.4044
r72 5 23 3.8511
r73 5 7 15.4044
r74 5 17 3.8511
r75 4 43 0.185659
r76 2 43 0.185659
.ends

.subckt PM_G5_XNOR3_N2_B 2 4 6 8 16 17 24 28 31 42 45 50 55 60 65 69 74 75 82
+ Vss
c65 82 Vss 3.53127e-19
c66 75 Vss 3.16204e-19
c67 74 Vss 7.66068e-19
c68 69 Vss 0.00368257f
c69 65 Vss 0.00255458f
c70 60 Vss 0.0023582f
c71 55 Vss 0.00157585f
c72 50 Vss 0.00115924f
c73 45 Vss 7.04295e-20
c74 42 Vss 5.36415e-19
c75 31 Vss 0.111942f
c76 24 Vss 1.02723e-19
c77 20 Vss 0.0247918f
c78 17 Vss 0.0338452f
c79 16 Vss 0.183686f
c80 6 Vss 0.112114f
c81 4 Vss 0.122719f
c82 2 Vss 0.13381f
r83 74 75 0.65409
r84 73 74 3.38028
r85 69 73 0.65409
r86 50 65 1.16709
r87 50 75 2.00578
r88 45 60 1.16709
r89 45 69 1.96931
r90 45 82 9.55481
r91 38 55 1.16709
r92 38 82 0.4602
r93 38 42 0.145875
r94 36 55 0.309679
r95 31 65 0.50025
r96 28 60 0.50025
r97 24 55 0.214393
r98 20 36 0.326018
r99 20 24 0.75855
r100 17 36 6.7686
r101 16 36 0.326018
r102 16 36 0.1167
r103 13 17 0.652036
r104 8 31 3.09255
r105 6 28 3.09255
r106 4 24 3.09255
r107 2 13 3.8511
.ends

.subckt PM_G5_XNOR3_N2_Z 2 4 6 8 23 27 30 33 Vss
c29 30 Vss 0.00359454f
c30 27 Vss 0.00857889f
c31 23 Vss 0.0074536f
c32 8 Vss 0.00143442f
c33 6 Vss 0.00143442f
r34 33 35 5.50157
r35 30 33 5.50157
r36 27 35 1.16709
r37 23 30 1.16709
r38 8 27 0.185659
r39 6 23 0.185659
r40 4 27 0.185659
r41 2 23 0.185659
.ends

