* File: G4_XNOR2_N3.pex.netlist.pex
* Created: Sun Apr 10 19:31:19 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G4_XNOR2_N3_VDD 2 5 9 12 14 16 32 42 43 45 54 59 66 68 69 70 73 75 76
+ 79 81 85 89 91 93 98 99 100 103 109 114 123 Vss
c102 123 Vss 0.00998345f
c103 114 Vss 0.00466671f
c104 109 Vss 0.00477251f
c105 101 Vss 8.67375e-19
c106 100 Vss 2.39889e-19
c107 99 Vss 4.52364e-19
c108 98 Vss 0.00591503f
c109 93 Vss 0.00301333f
c110 91 Vss 0.0106867f
c111 89 Vss 0.0015063f
c112 85 Vss 6.60056e-19
c113 81 Vss 0.0046084f
c114 79 Vss 0.00109211f
c115 76 Vss 8.68689e-19
c116 75 Vss 0.00224943f
c117 73 Vss 0.00191294f
c118 70 Vss 8.64616e-19
c119 69 Vss 0.00566667f
c120 68 Vss 0.0107726f
c121 66 Vss 0.00280898f
c122 59 Vss 0.00679236f
c123 54 Vss 0.010135f
c124 45 Vss 1.08186e-19
c125 43 Vss 0.0351405f
c126 42 Vss 0.100973f
c127 33 Vss 0.0359366f
c128 32 Vss 0.100971f
c129 14 Vss 0.00143493f
c130 9 Vss 0.377348f
c131 5 Vss 0.379154f
r132 98 103 0.326018
r133 97 98 5.54325
r134 95 123 1.16709
r135 93 97 0.655813
r136 93 95 1.82344
r137 92 101 0.494161
r138 91 103 0.326018
r139 91 92 13.0037
r140 87 101 0.128424
r141 87 89 6.16843
r142 85 114 1.16709
r143 83 85 2.16729
r144 82 100 0.494161
r145 81 101 0.494161
r146 81 82 7.46046
r147 79 109 1.16709
r148 77 100 0.128424
r149 77 79 2.16729
r150 75 100 0.494161
r151 75 76 4.37625
r152 71 99 0.0828784
r153 71 73 1.82344
r154 69 83 0.652036
r155 69 70 10.1279
r156 68 76 0.652036
r157 67 99 0.551426
r158 67 68 17.4633
r159 66 99 0.551426
r160 65 70 0.652036
r161 65 66 5.50157
r162 63 123 0.05
r163 59 89 1.16709
r164 54 73 1.16709
r165 45 114 0.0476429
r166 43 45 1.45875
r167 42 46 0.652036
r168 42 45 1.45875
r169 39 43 0.652036
r170 35 109 0.0476429
r171 33 35 1.45875
r172 32 36 0.652036
r173 32 35 1.45875
r174 29 33 0.652036
r175 16 63 0.123773
r176 14 59 0.123773
r177 12 59 0.123773
r178 9 46 5.1348
r179 9 39 5.1348
r180 5 36 5.1348
r181 5 29 5.1348
r182 2 54 0.123773
.ends

.subckt PM_G4_XNOR2_N3_VSS 3 6 8 11 14 16 32 33 42 43 54 59 63 66 71 76 81 87 96
+ 101 114 116 117 118 123 124 129 137 142 143 144 146 Vss
c85 144 Vss 3.75522e-19
c86 143 Vss 4.28045e-19
c87 142 Vss 0.0047306f
c88 137 Vss 0.00122865f
c89 129 Vss 0.0130341f
c90 124 Vss 8.2479e-19
c91 123 Vss 0.00464476f
c92 118 Vss 8.46757e-19
c93 117 Vss 0.00174235f
c94 116 Vss 0.00202335f
c95 114 Vss 0.00643502f
c96 101 Vss 0.00391102f
c97 96 Vss 0.00421609f
c98 87 Vss 2.60675e-19
c99 81 Vss 0.00257188f
c100 76 Vss 7.28175e-19
c101 71 Vss 0.00117992f
c102 66 Vss 0.00174295f
c103 63 Vss 0.00812841f
c104 59 Vss 0.00683037f
c105 54 Vss 0.00816767f
c106 43 Vss 0.0342891f
c107 42 Vss 0.100071f
c108 33 Vss 0.0350852f
c109 32 Vss 0.0990713f
c110 14 Vss 0.00143493f
c111 11 Vss 0.378924f
c112 3 Vss 0.378636f
r113 142 146 0.349767
r114 141 142 5.50157
r115 137 146 0.306046
r116 130 144 0.494161
r117 129 141 0.652036
r118 125 144 0.128424
r119 123 133 0.652036
r120 123 124 10.1279
r121 119 143 0.0828784
r122 117 144 0.494161
r123 117 118 4.37625
r124 116 124 0.652036
r125 115 143 0.551426
r126 115 116 5.50157
r127 114 143 0.551426
r128 113 118 0.652036
r129 113 114 17.4633
r130 87 137 1.82344
r131 81 129 13.5872
r132 81 130 8.04396
r133 81 84 6.71025
r134 76 101 1.16709
r135 76 133 2.16729
r136 71 96 1.16709
r137 71 125 2.16729
r138 66 119 1.82344
r139 63 87 1.16709
r140 59 84 1.16709
r141 54 66 1.16709
r142 45 101 0.0476429
r143 43 45 1.45875
r144 42 46 0.652036
r145 42 45 1.45875
r146 39 43 0.652036
r147 35 96 0.0476429
r148 33 35 1.45875
r149 32 36 0.652036
r150 32 35 1.45875
r151 29 33 0.652036
r152 16 63 0.123773
r153 14 59 0.123773
r154 11 46 5.1348
r155 11 39 5.1348
r156 8 59 0.123773
r157 6 54 0.123773
r158 3 36 5.1348
r159 3 29 5.1348
.ends

.subckt PM_G4_XNOR2_N3_A 2 4 7 10 21 24 28 39 48 54 57 62 67 72 77 85 Vss
c54 85 Vss 5.19577e-19
c55 77 Vss 0.00107525f
c56 72 Vss 0.00526551f
c57 67 Vss 0.00394354f
c58 62 Vss 0.00276499f
c59 57 Vss 0.00595775f
c60 54 Vss 8.99321e-19
c61 48 Vss 0.126065f
c62 43 Vss 0.0296855f
c63 39 Vss 4.49964e-19
c64 28 Vss 0.152703f
c65 24 Vss 8.95828e-20
c66 21 Vss 0.173355f
c67 18 Vss 0.180502f
c68 16 Vss 0.0247918f
c69 10 Vss 0.176514f
c70 7 Vss 0.433917f
c71 4 Vss 0.193054f
r72 81 85 0.653045
r73 62 77 1.16709
r74 62 85 4.9014
r75 57 72 1.16709
r76 57 81 11.3366
r77 51 67 1.16709
r78 51 54 0.0364688
r79 47 72 0.0238214
r80 47 48 2.334
r81 44 47 2.20433
r82 39 77 0.404964
r83 33 48 0.00605528
r84 31 44 0.00605528
r85 29 43 0.494161
r86 28 30 0.652036
r87 28 29 4.84305
r88 25 43 0.128424
r89 24 67 0.0476429
r90 22 24 0.326018
r91 22 24 0.1167
r92 21 43 0.494161
r93 21 24 6.7686
r94 18 67 0.357321
r95 16 24 0.326018
r96 16 18 0.40845
r97 10 39 4.60965
r98 7 33 5.1348
r99 7 31 5.1348
r100 7 30 5.1348
r101 4 25 5.1348
r102 2 18 4.72635
.ends

.subckt PM_G4_XNOR2_N3_NET1 2 4 7 10 30 31 35 41 44 49 58 66 Vss
c34 66 Vss 2.27666e-19
c35 58 Vss 0.0070279f
c36 49 Vss 0.00633509f
c37 44 Vss 0.0011111f
c38 41 Vss 0.00508953f
c39 35 Vss 0.103132f
c40 31 Vss 0.128995f
c41 30 Vss 9.4155e-20
c42 10 Vss 0.290846f
c43 7 Vss 0.485246f
c44 4 Vss 0.00143493f
r45 62 66 0.653045
r46 49 58 1.16709
r47 49 66 12.9148
r48 44 62 3.37596
r49 41 44 1.16709
r50 33 35 1.70187
r51 30 58 0.0238214
r52 30 31 2.20433
r53 27 30 2.334
r54 25 35 0.17282
r55 24 31 0.00605528
r56 21 33 0.17282
r57 18 27 0.00605528
r58 10 21 8.34405
r59 7 25 7.002
r60 7 24 5.1348
r61 7 18 5.1348
r62 4 41 0.123773
r63 2 41 0.123773
.ends

.subckt PM_G4_XNOR2_N3_NET3 2 4 6 9 21 22 33 39 42 47 56 74 Vss
c47 74 Vss 3.98722e-19
c48 56 Vss 0.00391617f
c49 47 Vss 0.00744607f
c50 42 Vss 0.00230693f
c51 39 Vss 0.00508953f
c52 33 Vss 0.12548f
c53 22 Vss 0.0328697f
c54 21 Vss 0.175168f
c55 9 Vss 0.574903f
c56 6 Vss 0.200347f
c57 4 Vss 0.00143493f
r58 70 74 0.660011
r59 47 56 1.16709
r60 47 74 11.3611
r61 42 70 3.29261
r62 39 42 1.16709
r63 32 56 0.0238214
r64 32 33 2.26917
r65 29 32 2.26917
r66 26 33 0.00605528
r67 24 29 0.00605528
r68 21 23 0.652036
r69 21 22 4.84305
r70 18 22 0.652036
r71 9 26 5.1348
r72 9 24 5.1348
r73 9 23 10.0362
r74 6 18 5.54325
r75 4 39 0.123773
r76 2 39 0.123773
.ends

.subckt PM_G4_XNOR2_N3_B 2 4 7 10 19 20 28 31 33 37 38 48 52 55 58 61 Vss
c34 61 Vss 0.0283565f
c35 55 Vss 0.00145453f
c36 52 Vss 0.136463f
c37 48 Vss 0.0595773f
c38 38 Vss 0.0333783f
c39 37 Vss 0.0913542f
c40 33 Vss 0.0446983f
c41 31 Vss 8.50018e-20
c42 28 Vss 0.0899906f
c43 20 Vss 0.0348606f
c44 19 Vss 0.173355f
c45 10 Vss 0.264298f
c46 7 Vss 0.429172f
c47 4 Vss 0.180506f
c48 2 Vss 0.192541f
r49 55 61 1.16709
r50 55 58 0.0416786
r51 50 52 4.53833
r52 47 48 1.167
r53 42 52 0.00605528
r54 37 39 0.652036
r55 37 38 2.04225
r56 35 48 0.0685365
r57 34 50 0.00605528
r58 33 38 0.652036
r59 32 47 0.0685365
r60 32 33 1.69215
r61 31 61 0.181909
r62 29 61 0.494161
r63 29 31 0.1167
r64 28 47 0.5835
r65 28 31 3.55935
r66 23 61 0.128424
r67 23 61 0.40845
r68 22 61 0.181909
r69 20 22 6.7686
r70 19 61 0.494161
r71 19 22 0.1167
r72 16 20 0.652036
r73 10 39 7.5855
r74 7 42 5.1348
r75 7 35 5.1348
r76 7 34 5.1348
r77 4 61 4.72635
r78 2 16 5.1348
.ends

.subckt PM_G4_XNOR2_N3_Z 2 4 6 8 23 27 30 33 Vss
c28 30 Vss 0.0035978f
c29 27 Vss 0.00609752f
c30 23 Vss 0.00569635f
c31 8 Vss 0.00143493f
c32 6 Vss 0.00143493f
r33 33 35 5.29318
r34 30 33 6.66857
r35 27 35 1.16709
r36 23 30 1.16709
r37 8 27 0.123773
r38 6 23 0.123773
r39 4 27 0.123773
r40 2 23 0.123773
.ends

